US05504101
A solution of the 5-benzyl-3-(2-nitroethenyl)indole (0.1 g, 0.4 mmol)in dry THF was added dropwise to a cooled (ice bath) suspension of LiAIH4 (0.1 g, 2.4 mmol)in 5 ml of dry THF under nitrogen. The mixture was heated at reflux for 45 min. Excess LiAIH4 was destroyed by successive addition of H2O (0.15 ml), 15% NaOH (0.15 ml) and H2O (0.4 ml). The white precipitate was removed by filtration and washed with THF (10 ml). After drying (MgSO4), the flitrate was evaporated under reduced pressure to give 0.04 g (45%) of 3-(2-aminoethyl)-5-benzylindole as a free base. The free base was converted to the fumarate salt, mp 150°-153° C.

reactant | 5-benzyl-3-(2-nitroethenyl)indole | 0.4 mmol, 0.1 g | C(C1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C=C[N+](=O)[O-] | C17H14N2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(2-aminoethyl)-5-benzylindole | 0.04 g, 45% | NCCC1=CNC2=CC=C(C=C12)CC1=CC=CC=C1 | C17H18N2
